US06008372
(S)-3-(1H-Imidazol-4-yl)-2-(3-naphthalen-1-yl-2-naphthalen-1-ylmethyl-propionylamino)-propionic acid, ethyl ester
A solution of 0.5 g (1.5 mmol) of bis-(1-naphthylmethyl)-acetic acid, 0.77 g (3.0 mmol) of histidine ethyl ester dihydrochloride (His-OEt·2 HCl), and 0.22 g (1.6 mmol) of 1-hydroxybenzotriazole (HOBt) in 20 mL of THF was treated with 0.85 mL (6.0 mmol) of Et3N followed by 0.33 g (1.6 mmol) of N,N'-dicyclo hexylcarbodiimide (DCC) and the solution allowed to stir at room temperature overnight. The mixture was filtered and the solvent removed under reduced pressure. The residue was taken up in EtOAc and washed with a saturated solution of NaHCO3, then with a saturated solution of NaCl. Drying over MgSO4 and removal of the solvent under reduced pressure gave the crude product. Chromatography on silica gel, eluting with a gradient of methylene chloride (CH2Cl2) to CH2Cl2 /MeOH (96/4) gave 0.15 g of the product as a white foam. The structure was confirmed by NMR and mass spectroscopy; (m+H)+ =506.

reactant | bis-(1-naphthylmethyl)-acetic acid | 1.5 mmol, 0.5 g | C1(=CC=CC2=CC=CC=C12)CC(C(=O)O)CC1=CC=CC2=CC=CC=C12 | C24H20O2
reactant | histidine ethyl ester dihydrochloride | 3.0 mmol, 0.77 g | Cl.Cl.C(C)OC([C@@H](N)CC1=CNC=N1)=O
reactant | 1-hydroxybenzotriazole | 1.6 mmol, 0.22 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Et3N | 6.0 mmol, 0.85 mL | CCN(CC)CC | C6H15N
reactant | N,N'-dicyclo hexylcarbodiimide | 1.6 mmol, 0.33 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (S)-3-(1H-Imidazol-4-yl)-2-(3-naphthalen-1-yl-2-naphthalen-1-ylmethyl-propionylamino)-propionic acid, ethyl ester | 0.15 g | N1C=NC(=C1)C[C@@H](C(=O)OCC)NC(C(CC1=CC=CC2=CC=CC=C12)CC1=CC=CC2=CC=CC=C12)=O | C32H31N3O3
